US04954502
(a) 2-bromo-5-chloro-3-pyridinol
A solution of bromine (12.35 g) in 10% NaOH (70 mL) was added dropwise with stirring to a solution of 5-chloro-3-pyridinol (10.00 g) in 10% NaOH (70 mL). After the addition was complete, the reaction was stirred at 22° C. for 20 h. The reaction was cooled to 0° C. and acidified to pH 5.3 with concentrated HCl (aq). The precipitate was filtered and dried under vacuum for 60 h to afford a) (15.66 g, 97%).

reactant | bromine | 12.35 g | BrBr | Br2
reactant | 5-chloro-3-pyridinol | 10.00 g | ClC=1C=C(C=NC1)O | C5H4ClNO
reactant | HCl | Cl | ClH
solvent | NaOH | 70 mL | [OH-].[Na+]
solvent | NaOH | 70 mL | [OH-].[Na+]
product | 2-bromo-5-chloro-3-pyridinol | BrC1=NC=C(C=C1O)Cl | C5H3BrClNO
